### PR TITLE
[Merged by Bors] - feat(Analysis/PolarCoord): add versions for Lebesgue integral

### PR DESCRIPTION
**Pull request by xroblot**
This PR is part of the proof of the Analytic Class Number Formula.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by j-loreaux — COMMENTED** [review]
Seems reasonable to me, but this is not my end of the library:

maintainer merge

File: Mathlib/Analysis/SpecialFunctions/PolarCoord.lean [hunk 1]
```diff
@@ -99,6 +99,14 @@ theorem hasFDerivAt_polarCoord_symm (p : ℝ × ℝ) :
     (hasFDerivAt_fst.mul ((hasDerivAt_sin p.2).comp_hasFDerivAt p hasFDerivAt_snd)) using 2 <;>
   simp [smul_smul, add_comm, neg_mul, smul_neg, neg_smul _ (ContinuousLinearMap.snd ℝ ℝ ℝ)]
 
+theorem FDerivAt_polarCoord_symm_det (p : ℝ × ℝ) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/PolarCoord.lean:102]:
```suggestion
theorem det_fderiv_polarCoord_symm (p : ℝ × ℝ) :
```

File: Mathlib/Analysis/SpecialFunctions/PolarCoord.lean [hunk 2]
```diff
@@ -121,29 +129,36 @@ theorem polarCoord_source_ae_eq_univ : polarCoord.source =ᵐ[volume] univ := by
...
+      rw [← PartialHomeomorph.symm_target, integral_target_eq_integral_abs_det_fderiv_smul volume
+      (fun p _ ↦ hasFDerivAt_polarCoord_symm p), PartialHomeomorph.symm_source]
+      simp_rw [FDerivAt_polarCoord_symm_det]
     _ = ∫ p in polarCoord.target, p.1 • f (polarCoord.symm p) := by
       apply setIntegral_congr_fun polarCoord.open_target.measurableSet fun x hx => ?_
-      rw [B_det, abs_of_pos]
-      exact hx.1
+      rw [abs_of_pos hx.1]
+
+theorem lintegral_comp_polarCoord_symm (f : ℝ × ℝ → ENNReal) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/PolarCoord.lean:146]:
```suggestion
theorem lintegral_comp_polarCoord_symm (f : ℝ × ℝ → ℝ≥0∞) :
```
for this, you may need to `open scope ENNReal` at the beginning of the file.

File: Mathlib/Analysis/SpecialFunctions/PolarCoord.lean [hunk 3]
```diff
@@ -185,4 +200,10 @@ protected theorem integral_comp_polarCoord_symm {E : Type*} [NormedAddCommGroup
     measurableEquivRealProd.symm.measurableEmbedding, ← integral_comp_polarCoord_symm]
   rfl
 
+protected theorem lintegral_comp_polarCoord_symm (f : ℂ → ENNReal) (hf : Measurable f) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/PolarCoord.lean:203]:
```suggestion
protected theorem lintegral_comp_polarCoord_symm (f : ℂ → ℝ≥0∞) (hf : Measurable f) :
```
Also, I am surprised that you would need `f` to be measurable, while it's not needed in the previous one. Use the fact that you have a measure isomorphism to get rid of it?

File: Mathlib/Analysis/SpecialFunctions/PolarCoord.lean [hunk 4]
```diff
@@ -121,29 +129,36 @@ theorem polarCoord_source_ae_eq_univ : polarCoord.source =ᵐ[volume] univ := by
...
+      (fun p _ ↦ hasFDerivAt_polarCoord_symm p), PartialHomeomorph.symm_source]
+      simp_rw [FDerivAt_polarCoord_symm_det]
     _ = ∫ p in polarCoord.target, p.1 • f (polarCoord.symm p) := by
       apply setIntegral_congr_fun polarCoord.open_target.measurableSet fun x hx => ?_
-      rw [B_det, abs_of_pos]
-      exact hx.1
+      rw [abs_of_pos hx.1]
+
+theorem lintegral_comp_polarCoord_symm (f : ℝ × ℝ → ENNReal) :
+    ∫⁻ (p : ℝ × ℝ) in polarCoord.target, (p.1).toNNReal • f (polarCoord.symm p) =
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/PolarCoord.lean:147]:
```suggestion
    ∫⁻ (p : ℝ × ℝ) in polarCoord.target, ENNReal.ofReal p.1 • f (polarCoord.symm p) =
```
Since you're working with ennreals, it seems more natural to put directly the function from reals to ennreals, instead of going through an additional coercion.

File: Mathlib/Analysis/SpecialFunctions/PolarCoord.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/PolarCoord.lean]: Indeed, `Measurable f` is not necessary. Thanks a lot for the review!

File: Mathlib/Analysis/SpecialFunctions/PolarCoord.lean (hunk 4 above)
Comment (sgouezel) [reply Mathlib/Analysis/SpecialFunctions/PolarCoord.lean:147]: Not sure you've done this throughout the whole PR yet?

Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/PolarCoord.lean:147]: Yeah, I am sure. I was having git troubles and got distracted. I'll fix that.

File: Mathlib/Analysis/SpecialFunctions/PolarCoord.lean [hunk 5]
```diff
@@ -185,4 +200,11 @@ protected theorem integral_comp_polarCoord_symm {E : Type*} [NormedAddCommGroup
     measurableEquivRealProd.symm.measurableEmbedding, ← integral_comp_polarCoord_symm]
   rfl
 
+protected theorem lintegral_comp_polarCoord_symm (f : ℂ → ℝ≥0∞) :
+    (∫⁻ p in polarCoord.target, ENNReal.ofReal p.1 • f (Complex.polarCoord.symm p)) =
+      ∫⁻ p, f p := by
+  rw [← (volume_preserving_equiv_real_prod.symm).lintegral_comp_emb
+    measurableEquivRealProd.symm.measurableEmbedding, ← lintegral_comp_polarCoord_symm]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/PolarCoord.lean:208]: Why do you need the rfl? Missing lemma?

Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/PolarCoord.lean]: Indeed. I added the missing lemma. Thanks!

Still, not sure about the name though so any suggestion for a better name is welcome.
